US07521455B2
6-chloro-3-(2-methoxy-4-{3-[(3S)-3-methylpiperidin-1-yl]propoxy}phenyl)-2-methylpyrido[3, 4-d]pyrimidin-4 (3H)-one
Manufacture of 6-chloro-3-(2-methoxy-4-{3-[(3S)-3-methylpiperidin-1-yl]propoxy}phenyl)-2-methylpyrido[3, 4-d]pyrimidin-4(3H)-one 6-chloro-3-(4-hydroxy-2-methoxyphenyl)-2-methylpyrido[3, 4-d]pyrimidin-4(3H)-one (250 mg, 0.79 mmol, 3-[(3S)-3-methylpiperidin-1-yl]propan-1-ol (186 mg, 1.2 mmol) and triphenylphosphine (310 mg, 1.2 mmol)-were dissolved in dry tetrahydrofuran (6 mL) in a current of nitrogen, and cooled on an ice bath. Diisopropyl azodicarboxylate (0.23 mL, 1.2 mmol) was dripped in, and stirred for 2 days at room temperature. The mixture was concentrated under reduced pressure, diethyl ether was added, and the solid precipitate was filtered off. The filtrate was concentrated, the product was purified by silica gel column chromatography (chloroform/methanol=100/0-95/5), and the title compound (200 mg, 56%) was thus obtained as colorless crystals.

reactant | 6-chloro-3-(2-methoxy-4-{3-[(3S)-3-methylpiperidin-1-yl]propoxy}phenyl)-2-methylpyrido[3, 4-d]pyrimidin-4(3H)-one 6-chloro-3-(4-hydroxy-2-methoxyphenyl)-2-methylpyrido[3, 4-d]pyrimidin-4(3H)-one | ClC1=CC2=C(N=C(N(C2=O)C2=C(C=C(C=C2)O)OC)C)C=N1.ClC1=CC2=C(N=C(N(C2=O)C2=C(C=C(C=C2)OCCCN2C[C@H](CCC2)C)OC)C)C=N1
reactant | 3-[(3S)-3-methylpiperidin-1-yl]propan-1-ol | 1.2 mmol, 186 mg | C[C@@H]1CN(CCC1)CCCO | C9H19NO
reactant | triphenylphosphine | 1.2 mmol, 310 mg | C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1 | C18H15P
reactant | Diisopropyl azodicarboxylate | 1.2 mmol, 0.23 mL | N(=NC(=O)OC(C)C)C(=O)OC(C)C | C8H14N2O4
solvent | tetrahydrofuran | 6 mL | O1CCCC1 | C4H8O
product | 6-chloro-3-(2-methoxy-4-{3-[(3S)-3-methylpiperidin-1-yl]propoxy}phenyl)-2-methylpyrido[3, 4-d]pyrimidin-4 (3H)-one | 200 mg, 56% | ClC1=CC2=C(N=C(N(C2=O)C2=C(C=C(C=C2)OCCCN2C[C@H](CCC2)C)OC)C)C=N1 | C24H29ClN4O3
